US06063815
2-Acetoxy-5-(4-benzoyl-2,6-diiodo-phenoxymethyl)-benzoic acid methyl ester
The title compound was prepared according to the procedure in Example 1, step 5 using 2-acetoxy-4-(hydroxymethyl) benzoic acid methyl ester (0.109 g, 0.484 mmol), (4-hydroxy-3,5-diiodo-phenyl)-phenyl-methanone (0.218 g, 0.484 mmol), triphenylphosphine (0.140 g, 0.533 mmol) and diethylazodicarboxylate (83.5 μL, 0.533 mmol) in benzene (4.84 mL). Purification on Biotage KP-Sil eluting with a 10, 15 & 20% EtOAc/pet. ether gave 0.173 g (54%) of the title compound as a white solid, mp 132-135° C. 1H NMR (DMSO-d6) δ 2.30 (s, 3H), 3.83 (s, 3H), 5.09 (s, 2H), 7.35 (d, 1H), 7.58 (t, 2H), 7.69-7.75 (m, 3H), 7.92 (dd, 1H), 8.13 (d, 2H), 8.19 (d, 1 H). IR (KBr) 2950, 1760, 1220, 1660 and 1275 cm-1. mass spectrum (+FAB) m/z 657 (M+H), 679 (M+Na).

reactant | 2-acetoxy-4-(hydroxymethyl) benzoic acid methyl ester | 0.484 mmol, 0.109 g | COC(C1=C(C=C(C=C1)CO)OC(C)=O)=O | C11H12O5
reactant | (4-hydroxy-3,5-diiodo-phenyl)-phenyl-methanone | 0.484 mmol, 0.218 g | OC1=C(C=C(C=C1I)C(=O)C1=CC=CC=C1)I | C13H8I2O2
reactant | triphenylphosphine | 0.533 mmol, 0.140 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.533 mmol, 83.5 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | 4.84 mL | C1=CC=CC=C1 | C6H6
product | 2-Acetoxy-5-(4-benzoyl-2,6-diiodo-phenoxymethyl)-benzoic acid methyl ester | 0.173 g, 54% | COC(C1=C(C=CC(=C1)COC1=C(C=C(C=C1I)C(C1=CC=CC=C1)=O)I)OC(C)=O)=O | C24H18I2O6
